US04652582
1-tert-Butyloxycarbonyl-2-(4-methylsulfonylphenyl)-3-(4-fluorophenyl)pyrrole
A suspension of 2-(4-methylsulfonylphenyl)-3-(4-fluorophenyl)-1H-pyrrole (31.5 g, 0.1 mole) in 200 ml acetonitrile was treated with N,N'-dimethylaminopyridine (1.2 g, 0.01 mole) and di-tert-butyl-dicarbonate (26.2 g, 0.12 mole). The mixture was stirred at room temperature until no starting pyrrole was evidenced by tlc (toluene-ethyl acetate, 3:2). The mixture was poured into a liter of water and triturated. The resulting solid was collected by filtration, washed with water and dried. The product was collected in 98% yield (40.6 g); m.p. 262°-262.5°.

reactant | 2-(4-methylsulfonylphenyl)-3-(4-fluorophenyl)-1H-pyrrole | 0.1 mole, 31.5 g | CS(=O)(=O)C1=CC=C(C=C1)C=1NC=CC1C1=CC=C(C=C1)F | C17H14FNO2S
reactant | di-tert-butyl-dicarbonate | 0.12 mole, 26.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | pyrrole | N1C=CC=C1 | C4H5N
reactant | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | water | a liter | O | H2O
product | 1-tert-Butyloxycarbonyl-2-(4-methylsulfonylphenyl)-3-(4-fluorophenyl)pyrrole | 98% yield | C(C)(C)(C)OC(=O)N1C(=C(C=C1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C22H22FNO4S
